US06544976B1
(2S)-Methyl-1-(α-toluenesulfonyl)azetidine-2-carboxylate
(2S)-Methyl azetidine-2-carboxylate hydrochloride from Reference Example 1 (361.4 mg, 2.26 mmol, 1.0 eq) was dissolved in dry dichloromethane (10.0 mL) and treated with α-toluenesulfonyl chloride (458.1 mg, 2.40 mmol, 1.1 eq). After cooling to about 0° C. under argon atmosphere, diisopropylethylamine (420 μL, 2.41 mmol, 1.1 eq) was added and the reaction mixture was stirred at about room temperature overnight. The solvent was evaporated and the residue was subjected to flash chromatography (in dichloromethane) to give 431.2 mg (71 % yield) of the product as a colorless oil. 1H NMR (CDCl3) δ 2.29-2.51 (m, 2H); 3.21-3.29 (m,1H); 3.81 (s, 3H); 4.02 (q,1H, J=8.6); 4.32 (d, 1H, J=9.4, 6.9); 4.46 (d, 1H, J=14.6); 4.86 (dd, 1H, J=9.4, 6.9); 7.34-7.43 (m, 3H); 7.46-7.54 (m, 2H).

reactant | (2S)-Methyl azetidine-2-carboxylate hydrochloride | Cl.N1[C@@H](CC1)C(=O)OC
reactant | α-toluenesulfonyl chloride | 2.40 mmol, 458.1 mg, 1.1 eq | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | diisopropylethylamine | 2.41 mmol, 420 μL, 1.1 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
product | (2S)-Methyl-1-(α-toluenesulfonyl)azetidine-2-carboxylate | 431.2 mg, 71 % yield | COC(=O)[C@H]1N(CC1)S(=O)(=O)CC1=CC=CC=C1 | C12H15NO4S
